US03931407
b. 1-(3-Carboxy-4-hydroxyphenyl)-2-(4-fluorophenyl)-4,5,6,7-tetrahydroindole ##SPC71##
A solution of 17.9 g. (0.077 mole) of 2-(p-fluorophenacyl)cyclohexanone, 11.8 g. (0.077 mole) of 5-aminosalicylic acid, and 90 ml. of glacial acetic acid was heated under reflux under nitrogen for 43/4 hours, cooled and filtered. The collected solid was washed with water and recrystallized from acetic acid to provide 10.0 g. (37%) of yellow crystals, m.p. 239°-240°.

reactant | 2-(p-fluorophenacyl)cyclohexanone | 0.077 mole | FC1=CC=C(C(CC2C(CCCC2)=O)=O)C=C1 | C14H15FO2
reactant | 5-aminosalicylic acid | 0.077 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxy-4-hydroxyphenyl)-2-(4-fluorophenyl)-4,5,6,7-tetrahydroindole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCCCC12)C1=CC=C(C=C1)F | C21H18FNO3
